Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8][C:9]([H:10])([H:11])[H:12],-4.60227867067
[H:1][C:2]=[C:3]([H:4])[C@:5]1([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],0.11656758764
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.19671100201
[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],4.21911108693
[H:1]/[C:2](=[C:3]\[C:4]1([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.07280243892
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-2.35871802727
[C:2](#[C:5][O:8])[H:9].[O:1]([C:3]([H:4])[H:7])[H:6]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9],-1.1563119890200002
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10].[O:1],7.051440547160001
[H:14].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.58754655721
[C:3]([H:4])([H:5])=[C:6][O:7][C:8]=[C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:9]([H:10])[H:11],-3.54421675524
[C:1]#[C:2][C:7]([H:8])([H:9])[O:10][O:11].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11],-3.76375444232
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][C:4]([H:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.43277320552
[H:1].[O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.66288994677
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3]([H:4])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],4.95245233182
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12]>>[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12],4.608029799880001
[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][H:8].[C:9]([H:10])([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.68270065843
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][O:7][H:8]>>[H:1][C:2]#[C:3][O:4][C:5]=[C:6]=[O:7].[H:8],2.8671781818700004
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-1.00266861148
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5],4.31691603762
[H:1].[O:2]=[C:3]([H:4])[C:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.58309638301
[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:12]([C:9]([C:7](=[C:5][H:6])[H:8])([H:10])[H:11])([H:13])[H:14],3.89360767921
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[O:5],0.0133487277608
[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]1[C:9]([H:10])([H:11])[H:12]>>[H:1][C:3]([C:2][C:9]([H:10])([H:11])[H:12])([O:4][C:5]#[C:8][H:6])[H:7],3.49728071136
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:10][H:11].[H:9]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.91898761823
[C:11]([H:12])([H:13])[H:14].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.2546859897400005
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])[H:6],4.32481762003
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.02728360246
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:5],1.62387886121
